US09388195B2
D) Production of tert-butyl 4-{2-cyano-2-[(methylsulfonyl)oxy]ethyl}piperidine-1-carboxylate
To a solution of tert-butyl 4-(2-cyano-2-hydroxyethyl)piperidine-1-carboxylate (67.0 g) and triethylamine (35.0 g) in dichloromethane (500 mL) was slowly added a solution of methanesulfonyl chloride (36.3 g) in dichloromethane (200 mL). The reaction system was stirred at room temperature for 2 hr, and added to ice water (300 mL). The organic layer was dried over anhydrous sodium sulfate, insoluble material was removed by filtration, and the filtrate was concentrated to give the title compound (80.0 g).

reactant | tert-butyl 4-(2-cyano-2-hydroxyethyl)piperidine-1-carboxylate | 67.0 g | C(#N)C(CC1CCN(CC1)C(=O)OC(C)(C)C)O | C13H22N2O3
reactant | triethylamine | 35.0 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 36.3 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | tert-butyl 4-{2-cyano-2-[(methylsulfonyl)oxy]ethyl}piperidine-1-carboxylate | 80.0 g | C(#N)C(CC1CCN(CC1)C(=O)OC(C)(C)C)OS(=O)(=O)C | C14H24N2O5S
